US06656971B2
5-(2-pyridin-4-yl-vinyl)-isophthalic acid.
A solution of LiOH (2.5 mmol) in water (1 ml) was added to 5-(2-pyridin-4-yl-vinyl)-isophthalic acid dimethylester (297 mg, 1 mmol) suspended in 5 ml EtOH. The mixture was stirred at room temperature. The reaction was monitored by TLC until completion. 2.5 ml 1 M HCl solution was then added and the mixture was evaporated to dryness. The product was used in next step without further purification.

reactant | LiOH | 2.5 mmol | [Li+].[OH-]
reactant | 5-(2-pyridin-4-yl-vinyl)-isophthalic acid dimethylester | 1 mmol, 297 mg | COC(C1=CC(C(=O)OC)=CC(=C1)C=CC1=CC=NC=C1)=O | C17H15NO4
reactant | HCl | 1 M, 2.5 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 5-(2-pyridin-4-yl-vinyl)-isophthalic acid | N1=CC=C(C=C1)C=CC=1C=C(C=C(C(=O)O)C1)C(=O)O | C15H11NO4
